US07420059B2
To a suspension of (methoxymethyl)triphenyl-phosphonium chloride (260 mg, 0.75 mmol) in tetrahydrofuran (0.3 mL) was added, dropwise, a solution of potassium tert-butoxide (0.75 mL, 1.0 M in tetrahydrofuran). After 15 min, a solution of methyl 6-amino-4-(4-fluorophenyl)-5-formyl-2-(1-methylethyl)-3-pyridinecarboxylate (95 mg, 0.3 mmol) in tetrahydrofuran (0.3 mL) was added to the above mixture. The resulting mixture was stirred at room temperature for 2.5 h, diluted with ethyl acetate (15 mL) and washed with brine, dried (Na2SO4) and evaporated. The residue was purified by a silica gel chromatography (45 g column), eluting with 15% to 20% of ethyl acetate in hexanes to provide methyl 6-amino-4-(4-fluorophenyl)-2-(1-methylethyl)-5-(2-methoxyethenyl)nicotinate as a E/Z mixture (80 mg, 77%): LCMS (ESI, pos. ion spectrum) m/z 345 (M+H); HPLC (method 3) tR=2.4 min.

reactant | (methoxymethyl)triphenyl-phosphonium chloride | 0.75 mmol, 260 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.0 M, 0.75 mL | CC(C)([O-])C.[K+]
reactant | methyl 6-amino-4-(4-fluorophenyl)-5-formyl-2-(1-methylethyl)-3-pyridinecarboxylate | 0.3 mmol, 95 mg | NC1=C(C(=C(C(=N1)C(C)C)C(=O)OC)C1=CC=C(C=C1)F)C=O | C17H17FN2O3
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | methyl 6-amino-4-(4-fluorophenyl)-2-(1-methylethyl)-5-(2-methoxyethenyl)nicotinate | NC1=NC(=C(C(=O)OC)C(=C1C=COC)C1=CC=C(C=C1)F)C(C)C | C19H21FN2O3
